GYRATOR DC SPICE SIMULATION
*   $ ngspice -b gyrator.net
* OR (with .DC and .PRINT enabled):
*   $ ngspice -b gyrator.net -o out.txt
*   $ cat out.txt | sed -n '/^[0-9]/p' > out.col
* then plot out.col with Octave
*   octave:1> load out.col
* octave:2> plot(out(:,2),-out(:,3))
*
* At DC the Gyrator looks like a resistance of R1/Beta 
* when measured as (delta V)/(delta I) 

R1   1  2 10000
R2   2  3 10000
R3   3  4 47
C1   2  4 1E-6
Q1   1  2 3 MOD1
RB   4  0 200
VB   1  0 DC 20
.MODEL MOD1 NPN BF=200
*.OP
.DC VB 0 48 0.1
.PRINT DC I(VB)
.END
